US07414134B2
Step (i): Synthesis of (R) methyl 2-(((9H-fluoren-9-yl)methoxy)carbonyl)-3-(1-((R)-7-((4-fluoropiperidin-1-yl)methyl)-3,4-dihydro-2H-chromen-4-yl)-1H-1,2,3-triazol-4-yl)propanoate (57)
To a stirred mixture of (R)-1-((4-azido-3,4-dihydro-2H-chromen-7-yl)methyl)-4-fluoropiperidine (0.83 g, 2.9 mmol) and (R)-methyl 2-(((9H-fluoren-9-yl)methoxy)-carbonyl)pent-4-ynoate (1.0 g, 2.9 mmol) in t-BuOH/H2O (1:1, 40 mL) was added a solution of sodium ascorbate (30 mg, 0.14 mmole) in H2O (300 μL), followed by CuSO4.5H2O (7 mg, 0.03 mmol) in H2O (300 μL). The reaction mixture was stirred for 72 h at RT. The reaction mixture was concentrated, extracted with CH2Cl2 (3×), dried over MgSO4, and concentrated. The residue was purified by SiO2 (2% MeOH/CH2Cl2) to give the title compound. MS (m/z): 640.4 (m+H).

reactant | (R)-1-((4-azido-3,4-dihydro-2H-chromen-7-yl)methyl)-4-fluoropiperidine | 2.9 mmol, 0.83 g | N(=[N+]=[N-])[C@@H]1CCOC2=CC(=CC=C12)CN1CCC(CC1)F | C15H19FN4O
reactant | (R)-methyl 2-(((9H-fluoren-9-yl)methoxy)-carbonyl)pent-4-ynoate | 2.9 mmol, 1.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)[C@@H](C(=O)OC)CC#C | C21H18O4
reactant | sodium ascorbate | 0.14 mmole, 30 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | t-BuOH H2O | 40 mL | CC(C)(C)O.O
solvent | H2O | 300 μL | O | H2O
solvent | H2O | 300 μL | O | H2O
product | methyl 2-(((9H-fluoren-9-yl)methoxy)carbonyl)-3-(1-((R)-7-((4-fluoropiperidin-1-yl)methyl)-3,4-dihydro-2H-chromen-4-yl)-1H-1,2,3-triazol-4-yl)propanoate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)C(C(=O)OC)CC=1N=NN(C1)[C@@H]1CCOC2=CC(=CC=C12)CN1CCC(CC1)F | C36H37FN4O5
